US07897597B2
1-(3-Amino-7-benzyloxyquinolin-4-ylamino)-2-methyl-propan-2-ol (25 g, 74.09 mmol) was added to 500 mL of pyridine. To this mixture was added in a dropwise manner a solution of methoxypropionyl chloride (10 g, 81.5 mmol) dissolved in 20 mL of toluene. After approximately half of the acid chloride had been added, the reaction mixture became completely homogenous. Two hours after the addition of the acid chloride, the reaction mixture was heated to reflux and maintained overnight. The solvent was concentrated through the use of a Dean-Stark trap. Cooling to ambient temperature provided a white precipitate, which was collected by filtration. The solid was slurried in 1 L of 1% hot aqueous sodium carbonate (75-80° C.) for 1 hour. The mixture was then cooled in an ice bath and the solid material was filtered, rinsed with water, and dried to yield 22.7 g of 1-[7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as a white solid, mp 170-171.5° C.

reactant | 1-(3-Amino-7-benzyloxyquinolin-4-ylamino)-2-methyl-propan-2-ol | 74.09 mmol, 25 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)OCC1=CC=CC=C1 | C20H23N3O2
reactant | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
reactant | methoxypropionyl chloride | 81.5 mmol, 10 g | COCCC(=O)Cl | C4H7ClO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 22.7 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CCOC | C24H27N3O3
